US07109186B2
Compound 867: 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid [3-(4-fluorophenyl)-propyl]-methyl-amide
Reaction of 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-[3-(4-fluorophenyl)-propyl]-N-methyl-acetamide (0.245 g, 0.76 mmol) with the paraformaldehyde —N-(2-aminoethyl)morpholine adduct in methanol using a procedure similar to the one described in the preparation of compound 13 gave 0.103 g (33% yield) of the title compound as a solid after chromatography on reversed phase silica gel. 1HNMR 400 MHz (CDCl3) δ (ppm); 1.92 (2H, m, CH2), 2.47 (4H, broad, 2×NCH2), 2.54 (2H, broad t, NCH2), 2.63 (2H, t, J=7.5 Hz, CH2), 3.04 (3H, s, NCH3), 3.42 (2H, broad t, NCH2), 3.58 (2H, broad, NCH2), 3.66 (4H, broad, 2×OCH2), 4.12 (2H, broad s, NCH2), 6.97 (2H, m, aromatics), 7.14 (2H, m, aromatics). HRMS (FAB+) calculated for C21H29FN3O4: [M+H]+: 406.214210. found: 406.214016.

reactant | 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-[3-(4-fluorophenyl)-propyl]-N-methyl-acetamide | 0.76 mmol, 0.245 g | CC1(OC(C(O1)=CC(=O)N(C)CCCC1=CC=C(C=C1)F)=O)C | C17H20FNO4
reactant | paraformaldehyde N-(2-aminoethyl)morpholine | C=O.NCCN1CCOCC1
solvent | methanol | CO | CH4O
product | 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid [3-(4-fluorophenyl)-propyl]-methyl-amide | 0.103 g, 33% yield | FC1=CC=C(C=C1)CCCN(C(=O)C=1CN(C(C1O)=O)CCN1CCOCC1)C | C21H28FN3O4
